US04266056
2,6-Dichloroaniline and α-cyano-β-ethoxy-N-ethoxycarbonylacrylamide in ethanol is refluxed 3 days and hexane added to prepare α-cyano-β-(2,6-dichloroanilino)-N-ethoxycarbonylacrylamide, which is cyclized by heating in tetralin to yield 5-cyano-1-(2,6-dichlorophenyl)uracil, m.p. 273°-274.5°.

reactant | 2,6-Dichloroaniline | ClC1=C(N)C(=CC=C1)Cl | C6H5Cl2N
reactant | α-cyano-β-ethoxy-N-ethoxycarbonylacrylamide | C(#N)C(C(=O)NC(=O)OCC)=COCC | C9H12N2O4
reactant | hexane | CCCCCC | C6H14
reactant | α-cyano-β-(2,6-dichloroanilino)-N-ethoxycarbonylacrylamide | C(#N)C(C(=O)NC(=O)OCC)=CNC1=C(C=CC=C1Cl)Cl | C13H11Cl2N3O3
solvent | ethanol | C(C)O | C2H6O
solvent | tetralin | C1CCCC2=CC=CC=C12 | C10H12
product | 5-cyano-1-(2,6-dichlorophenyl)uracil | C(#N)C=1C(NC(N(C1)C1=C(C=CC=C1Cl)Cl)=O)=O | C11H5Cl2N3O2
